US06548710B2
Preparation of 2-chloro-2-methylpropiophenone:
Isobutyrophenone (30.0 g, 0.20 mole) was dissolved in heptane (10 ml) and sulfuryl chloride (35 g, 0.26 mole) was added at once. After a few minutes gas evolution occurred. After 3 h of stirring at room temperature the reaction mixture was concentrated. The concentrate was dissolved in heptane (250 ml) and washed with 150 ml of an aqueous 2 wt % sodium bicarbonate solution. After drying over magnesium sulfate the solvent was removed under reduced pressure. The yield of 2-chloro-2-methylpropiophenone was 36.4 g or 98%.

reactant | Isobutyrophenone | 0.20 mole, 30.0 g | C(C(C)C)(=O)C1=CC=CC=C1 | C10H12O
reactant | sulfuryl chloride | 0.26 mole, 35 g | S(=O)(=O)(Cl)Cl | Cl2O2S
solvent | heptane | 10 ml | CCCCCCC | C7H16
product | 2-chloro-2-methylpropiophenone | ClC(C(=O)C1=CC=CC=C1)(C)C | C10H11ClO
